US08735414B2
A mixture of 1-(tert-butoxycarbonyl)-6-cyclopropyl-1H-indol-2-ylboronic acid (1.10 g, 3.64 mmol), (S)-6-chloro-N-(1,1,1-trifluoropropan-2-yl)pyridine-3-sulfonamide (1.05 g, 3.64 mmol), PdCl2(dppf) (178 mg, 0.22 mmol), aq. K2CO3 (2 M, 5.46 mL, 10.9 mmol) in acetonitrile (8 mL) was stirred at 50° C. overnight. The solvent was then evaporated and the residue purified on silica gel eluting with 0 to 10% ethyl acetate in CH2Cl2 to provide (S)-tert-butyl 6-cyclopropyl-2-(5-(N-(1,1,1-trifluoropropan-2-yl)sulfamoyl)pyridin-2-yl)-1H-indole-1-carboxylate (1.51 g, 81% yield). MS m/z 510.3 M+H+; 1H NMR (500 MHz, CDCl3): δ 9.65 (1H, s), 8.50 (1H, m), 8.01 (1H, d, J=8.2 Hz), 7.85 (1H, s), 7.52-7.49 (2H, m), 6.98 (1H, d, J=8.2 Hz), 4.98 (1H, d, J=8.4 Hz), 4.02 (1H, m), 2.02-1.98 (1H, m), 1.34 (3H, d, J=7.5 Hz), 0.98-0.96 (2H, m), 0.76-0.72 (2H, m).

reactant | 1-(tert-butoxycarbonyl)-6-cyclopropyl-1H-indol-2-ylboronic acid | 3.64 mmol, 1.10 g | C(C)(C)(C)OC(=O)N1C(=CC2=CC=C(C=C12)C1CC1)B(O)O | C16H20BNO4
reactant | (S)-6-chloro-N-(1,1,1-trifluoropropan-2-yl)pyridine-3-sulfonamide | 3.64 mmol, 1.05 g | ClC1=CC=C(C=N1)S(=O)(=O)N[C@H](C(F)(F)F)C | C8H8ClF3N2O2S
reactant | K2CO3 | 10.9 mmol, 2 M, 5.46 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
catalyst | PdCl2(dppf) | 0.22 mmol, 178 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (S)-tert-butyl 6-cyclopropyl-2-(5-(N-(1,1,1-trifluoropropan-2-yl)sulfamoyl)pyridin-2-yl)-1H-indole-1-carboxylate | 1.51 g, 81% yield | C1(CC1)C1=CC=C2C=C(N(C2=C1)C(=O)OC(C)(C)C)C1=NC=C(C=C1)S(N[C@H](C(F)(F)F)C)(=O)=O | C24H26F3N3O4S
